US07442837B2
(iv) (1R)2-Bromo-1-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)ethanol
A solution R-diphenylprolinol (75 mg) in THF (2 ml) was treated with borane-THF (1M, 20.5 ml) over 20 min at 20° C. under nitrogen. After the addition was complete the solution was kept between 30 and 35° C. for 1 h and then cooled in ice and 2-bromo-1-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)ethanone (DE3513885) (3.9 g) in THF (10 ml) was added over 1.5 h keeping the temperature below 5° C. The mixture was stirred under nitrogen for a further 0.5 h and then methanol (4 ml) was added at 0° C. The solvent was removed under reduced pressure and the residue was purified by chromatography on flash silica gel eluting with ethyl acetate-cyclohexane (1:4) to give the title compound (3.31 g) δ (CDCl3) 7.15 (1H, dd, J 8, 2 Hz), 7.03 (1H, br s), 6.82 (1H, d, J 8 Hz), 4.85 (3H, s and m), 3.61 (1H, dd, J 10, 4 Hz), 3.50 (1H, 9 Hz), 1.54 (6H, s).

reactant | borane THF | 1M, 20.5 ml | B.C1CCOC1
reactant | 2-bromo-1-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)ethanone | 3.9 g | BrCC(=O)C1=CC2=C(OC(OC2)(C)C)C=C1 | C12H13BrO3
reactant | methanol | 4 ml | CO | CH4O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (1R)2-Bromo-1-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)ethanol | 3.31 g | BrC[C@H](O)C1=CC2=C(OC(OC2)(C)C)C=C1 | C12H15BrO3
